US06107458
N-(4-octylphenyl)-N'-aminourea, Formamidine acetate (12.76 g) and N-carbazoyl-4-octylaniline (6.458 g) in N,N-dimethylformamide (19.4 ml) were stirred at 150° C. for 6 hours. The reaction mixture was pulverized with water. The precipitate was collected by filtration and washed with water to give 4-(4-Octylphenyl)-2,3-dihydro-4H-1,2,4-triazol-3-one (4.27 g).

reactant | N-(4-octylphenyl)-N'-aminourea | C(CCCCCCC)C1=CC=C(C=C1)NC(=O)NN | C15H25N3O
reactant | Formamidine acetate | 12.76 g | C(C)(=O)O.C(=N)N
reactant | N-carbazoyl-4-octylaniline | 6.458 g | C(NN)(=O)NC1=CC=C(C=C1)CCCCCCCC | C15H25N3O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 19.4 ml | CN(C=O)C | C3H7NO
product | 4-(4-Octylphenyl)-2,3-dihydro-4H-1,2,4-triazol-3-one | 4.27 g | C(CCCCCCC)C1=CC=C(C=C1)N1C(NN=C1)=O | C16H23N3O
